US08703965B2
According to method A1, diisopropylethylamine (0.34 mL, 1.96 mmol) was added to a stirred solution of N,N′-dimesitylformamidine (0.5 g, 1.78 mmol) and dichloroethane (1.36 mL, 17.8 mmol) in a schlenk tube. The tube was evacuated until solvent began to bubble and then sealed and heated to 120° C. for 24 hours. The reaction mixture was then cooled, added to toluene (40 mL) and then brought to reflux. While still hot, the precipitate was collected by vacuum filtration, washed with toluene (5 mL) and dried in vacuo to afford 1,3-dimesitylimidazolinium chloride (0.56 g, 92%) as a light peach powder.

reactant | diisopropylethylamine | 1.96 mmol, 0.34 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N,N′-dimesitylformamidine | 1.78 mmol, 0.5 g | C1(=C(C(=CC(=C1)C)C)NC=NC1=C(C=C(C=C1C)C)C)C | C19H24N2
reactant | dichloroethane | 17.8 mmol, 1.36 mL | ClC(C)Cl | C2H4Cl2
product | 1,3-dimesitylimidazolinium chloride | 0.56 g, 92% | [Cl-].C1(=C(C(=CC(=C1)C)C)[NH+]1CN(CC1)C1=C(C=C(C=C1C)C)C)C | InChI=1S/C21H28N2.ClH/c1-14-9-16(3)20(17(4)10-14)22-7-8-23(13-22)21-18(5)11-15(2)12-19(21)6;/h9-12H,7-8,13H2,1-6H3;1H
